US04782149
8.0 g of tert.butyl 2(R)-acetoxy-4-(4-nitrophenyl)butanoate were dissolved in 200 ml of methanol saturated with ammonia at 0° C. and the mixture was stirred for 16 hours. Evaporation of the mixture in vacuo gave 7 g of an almost colorless oil which was dissolved in an equal volume of diethyl ether/n-hexane (1;1) and eluted through a silica gel column with the same solvent mixture to give 6 g of tert.butyl 2(R)-hydroxy-4-(4-nitrophenyl)butanoate as a colorless crystalline solid having a melting point of 41°-42° C.

reactant | tert.butyl 2(R)-acetoxy-4-(4-nitrophenyl)butanoate | 8.0 g | C(C)(=O)O[C@@H](C(=O)OC(C)(C)C)CCC1=CC=C(C=C1)[N+](=O)[O-] | C16H21NO6
solvent | methanol | 200 ml | CO | CH4O
solvent | ammonia | N | H3N
solvent | toluene ethyl acetate | C1(=CC=CC=C1)C.C(C)(=O)OCC
product | tert.butyl 2(R)-hydroxy-4-(4-nitrophenyl)butanoate | 6 g | O[C@@H](C(=O)OC(C)(C)C)CCC1=CC=C(C=C1)[N+](=O)[O-] | C14H19NO5
